US05908743
500 μM dUTP
300 μM each dATP, dCTP, and dGTP

reactant | dATP | 300 μM | C1=NC(=C2C(=N1)N(C=N2)[C@H]3C[C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)N | C10H16N5O12P3
reactant | dCTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C=C1)O | C9H16N3O13P3
reactant | dGTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O | C10H16N5O13P3
product | dUTP | C1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O | C9H15N2O14P3
